US04167638
B. 8-[2-Hydroxy-2-methyl-3-(2-propylamino)propylamino]-6-methoxy-4-methylquinoline Dihydrochloride.
A stirred mixture of 10.7 g (0.057 mole) of 8-amino-6-methoxy-4-methylquinoline and 11.7 g (0.057 mole) of 3-chloro-2-methyl-1-(2-propylamino)propan-2-ol, hydrochloride was heated in an oil bath (150°) for 1 hr while 5.8 g (0.057 mole) of triethylamine was added, dropwise. The reaction mixture was stirred at 150° for 24 hrs, cooled, basified with 30 ml of 5% aqueous sodium hydroxide, then extracted with dichloromethane (3×100 ml). The organic extracts were combined, washed with water (2×200 ml), dried over anhydrous magnesium sulfate, then concentrated in vacuo to 50 ml. The solution was chromatographed on a column (60 cm× 7.5 cm) of silica gel (2.5 kg; activity III) using dichloromethane (10 l) followed by methanol-concentrated ammonium hydroxide (25:1) (7 l) as the eluent. The fractions (1 l each) 13-18 were combined then concentrated in vacuo to an oil. The oil was dissolved in ether (100 ml), and the solution was washed with water (2×200 ml), dried over anhydrous magnesium sulfate, then saturated with anhydrous hydrogen chloride. The solid that separated was collected on a filter, dried, then recrystallized from 300 ml of absolute ethanol; yield 4.6 g; mp 232°-234°, dec.

reactant | 8-amino-6-methoxy-4-methylquinoline | 0.057 mole, 10.7 g | NC=1C=C(C=C2C(=CC=NC12)C)OC | C11H12N2O
reactant | 3-chloro-2-methyl-1-(2-propylamino)propan-2-ol, hydrochloride | 0.057 mole, 11.7 g | Cl.ClCC(CNC(C)C)(O)C
reactant | triethylamine | 0.057 mole, 5.8 g | C(C)N(CC)CC | C6H15N
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | 8-[2-Hydroxy-2-methyl-3-(2-propylamino)propylamino]-6-methoxy-4-methylquinoline Dihydrochloride | Cl.Cl.OC(CNC=1C=C(C=C2C(=CC=NC12)C)OC)(CNC(C)C)C | InChI=1S/C18H27N3O2.2ClH/c1-12(2)20-10-18(4,22)11-21-16-9-14(23-5)8-15-13(3)6-7-19-17(15)16;;/h6-9,12,20-22H,10-11H2,1-5H3;2*1H
